US09029560B2
Preparation of 1-[(4-fluoro-2-isopropyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea (PC85)
The title compound was prepared as described in Example 75 using 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CA44) and 1-(4-fluoro-2-isopropylphenyl)thiourea isolated as a white solid (0.085 g, 27%): 1H NMR (400 MHz, DMSO-d6) δ 11.83 (s, 1H), 10.17 (s, 1H), 9.42 (s, 1H), 8.14-8.05 (m, 2H), 8.05-7.95 (m, 2H), 7.68-7.58 (m, 2H), 7.49 (t, J=7.6 Hz, 1H), 7.43-7.31 (m, 2H), 7.15 (dd, J=10.3, 3.0 Hz, 1H), 7.03 (td, J=8.3, 2.9 Hz, 2H), 3.47 (q, J=6.6 Hz, 2H), 3.01-2.82 (m, 3H), 1.14 (d, J=6.8 Hz, 6H); 19F NMR (376 MHz, DMSO-d6) δ −56.97, −114.40; ESIMS m/z 587 ([M+H]+), 585 ([M−H]−).

reactant | 3-(3-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CCC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(4-fluoro-2-isopropylphenyl)thiourea | FC1=CC(=C(C=C1)NC(=S)N)C(C)C | C10H13FN2S
product | 1-[(4-fluoro-2-isopropyl-phenyl)carbamothioyl]-3-[2-[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]ethyl]urea | FC1=CC(=C(C=C1)NC(=S)NC(=O)NCCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | C28H26F4N6O2S
